US08981085B2
N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-dimethylcyclopropanecarboxamide (500 mg, 1.53 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (921 mg, 4.60 mmol) in s-BuOH (10 mL) were stirred at 130° C. for 18 hours. The reaction was concentrated and purified by reverse phase chromatography (SP4, 25M, water/ACN 90/10→0/100, 30 CV) to yield tert-butyl (1R)-3-(5-bromo-3-(2,2-dimethylcyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)cyclohexylcarbamate (360 mg, 46.5% yield) as a solid.

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-dimethylcyclopropanecarboxamide | 1.53 mmol, 500 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2C(C2)(C)C)F | C13H13BrFN3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 4.60 mmol, 921 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | s-BuOH | 10 mL | C(C)(CC)O | C4H10O
product | tert-butyl (1R)-3-(5-bromo-3-(2,2-dimethylcyclopropanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)cyclohexylcarbamate | 360 mg, 46.5% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2C(C2)(C)C)C2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C24H33BrN4O3
